US07842701B2
3-amino-2-(4-hyroxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-2-(4-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (150 mg), DL-methionine (371 mg) and methanesulfonic acid (3 ml) was stirred at 100° C. for 3 hours. The reaction mixture was cooled, pH of the reaction mixture was adjusted to about 8 by adding an aqueous 20% sodium hydroxide solution and a 10% aqueous citric acid solution. The precipitated solid was collected by filtration, washed with water and then dried to obtain the target compound (132 mg).

reactant | 3-amino-2-(4-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 150 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=CC=C(C=C2)OC | C17H14N4O2
reactant | DL-methionine | 371 mg | NC(CCSC)C(=O)O | C5H11NO2S
reactant | methanesulfonic acid | 3 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-amino-2-(4-hyroxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 132 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=CC=C(C=C2)O | C16H12N4O2
